US06589970B2
A solution of bromine in 40 mL glacial acetic acid was added dropwise under nitrogen over 2.5 h to a solution of 2-butyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (0.5364 g, 1.358 mmol), prepared in the previous step, in 60 mL of glacial acetic acid. The reaction stirred for 20 h (overnight). The solvent was removed under reduced pressure. The residue was diluted with methylene chloride, extracted with 5% NaHCO3, dried (MgSO4) and the solvent removed under reduced pressure to give 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (0.6981 g, 100%.) as a light yellow foam, MS m/z: 466 [M+H]+.

reactant | bromine | BrBr | Br2
reactant | 2-butyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 1.358 mmol, 0.5364 g | OC=1C=C2C=CC(=CC2=CC1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C25H25NO3
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 0.6981 g, 100% | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C25H24BrNO3
